US09447090B2
A suspension of 3.0 g of methyl 3-formylbenzoate, 2.25 g of (R)-2-methyl-2-propanesulfinamide, and 6.0 g of copper (II) sulfate in 50 ml of dichloromethane was stirred overnight. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 700 mg of methyl 3-[(E)-{[(R)-tert-butylsulfinyl]imino}methyl]benzoate.

reactant | methyl 3-formylbenzoate | 3.0 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | (R)-2-methyl-2-propanesulfinamide | 2.25 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | copper (II) sulfate | 6.0 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | methyl 3-[(E)-{[(R)-tert-butylsulfinyl]imino}methyl]benzoate | 700 mg | C(C)(C)(C)[S@@](=O)\N=C\C=1C=C(C(=O)OC)C=CC1 | C13H17NO3S
